US04954518
In 50 ml of methylene chloride were dissolved 2.06 g of 3-bromo-2,3-dihydro-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one and 480 mg- of methylmercaptan. Thereto was added 2.02 g of triethylamine at 0°-5° C. The mixture was stirred for 1 hour at room temperature. The reaction mixture was introduced into 30 ml of water. The organic layer was separated, washed with water, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: a 50 : 1 mixture of toluene and ethyl acetate) to obtain 900 mg (yield: 47.4%) of 2,3-dihydro-7-methylsulfonylamino-3-methylthio-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 3-bromo-2,3-dihydro-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 2.06 g | BrC1COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C16H14BrNO5S
reactant | methylmercaptan | CS | CH4S
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
reactant | water | 30 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,3-dihydro-7-methylsulfonylamino-3-methylthio-6-phenoxy-4H-1-benzopyran-4-one | 900 mg, yield: 47.4% | CS(=O)(=O)NC1=CC2=C(C(C(CO2)SC)=O)C=C1OC1=CC=CC=C1 | C17H17NO5S2
